US05519029
A mixture of 9-fluoro-6-methoxybenzo[g] isoquinoline-5,10-dione (0.072 g) and aluminum trichloride (0.112 g) in dry methylene chloride (40 mL) is stirred at room temperature for 4 hours under a nitrogen atmosphere. An additional portion of aluminum chloride (0.190 g) is added and the mixture is allowed to react at reflux for 1.5 hrs and at room temperature overnight. Following addition of brine (15 mL) the aqueous phase is separated and extracted with methylene chloride (3×5 mL). The combined organic solutions are dried over anhydrous sodium sulphate and the solvent is removed by distillation at reduced pressure to give an approximately 1:1 mixture (0.070 g) of 9-fluoro-6-hydroxybenzo[g] isoquinoline-5,10-dione (slower moving yellow spot on silica gel TLC plate, eluant methylene chloride/ethyl acetate 70/30) and 9-chloro-6-hydroxybenzo [g]isoquinoline-5,10-dione (faster moving yellow spot on the above chromatographic system) which is used without further purification for the next step.

reactant | 9-fluoro-6-methoxybenzo[g] isoquinoline-5,10-dione | 0.072 g | FC1=CC=C(C=2C(C=3C=CN=CC3C(C21)=O)=O)OC | C14H8FNO3
reactant | aluminum trichloride | 0.112 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | aluminum chloride | 0.190 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 15 mL | [Cl-].[Na+].O
product | 9-fluoro-6-hydroxybenzo[g] isoquinoline-5,10-dione | 0.070 g | FC1=CC=C(C=2C(C=3C=CN=CC3C(C21)=O)=O)O | C13H6FNO3
